US05496927
3-Benzoylamino-1,1,1-trifluoro-2-propanol
A solution of 10 g (0.263 mol) of NaBH4 in 100 ml of H2O was added to 14.8 g (59.4 mmol) of N-(3,3,3-trifluoro-2-oxopropyl)benzamide in 1000 ml of H2O. After stirring for 2 hours at 25° C., the solution was acidified with concentrated HCl (pH 1), basified by adding NaOH pellets (pH 10) and extracted with AcOEt (3×500 ml). After drying (MgSO4), the organic layer was flash evaporated to give 11 g of a white solid, which was recrystallized from CHCl3 to yield 10.0 g (72%) of pure trifluoromethylalcohol; m.p. 156° C.

reactant | NaBH4 | 0.263 mol, 10 g | [BH4-].[Na+]
reactant | N-(3,3,3-trifluoro-2-oxopropyl)benzamide | 59.4 mmol, 14.8 g | FC(C(CNC(C1=CC=CC=C1)=O)=O)(F)F | C10H8F3NO2
reactant | HCl | pH 1 | Cl | ClH
reactant | NaOH | [OH-].[Na+]
solvent | H2O | 100 ml | O | H2O
solvent | H2O | 1000 ml | O | H2O
product | 3-Benzoylamino-1,1,1-trifluoro-2-propanol | 11 g | C(C1=CC=CC=C1)(=O)NCC(C(F)(F)F)O | C10H10F3NO2
